US08039463B2
HOBt (75 mg, 0.55 mmol) and DIPEA (213 mg, 1.65 mmol) were added to a stirred solution of N-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-malonamic acid (150 mg, 0.55 mmol) in DMF (2.0 mL). The reaction mixture was cooled to 0° C. and EDCI.HCl (126 mg, 0.66 mmol) followed by (2-bromo-phenyl)-piperazin-1-yl-methanone hydrochloride (185 mg, 0.6 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water. The resulting precipitate was recrystallized from ethyl acetate:hexane (1:1) to afford 180 mg (21%) of 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-N-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-propionamide. LCMS: 524.09 (M+1)+9.7%, 1H NMR: (DMSO-d6): δ 7.7-7.2 (m, 8H), 6.5 (m, 1H), 6.3 (m, 1H), 3.8-3.6 (m, 5H), 3.6-3.34 (m, 3H), 3.2 (m, 2H).

reactant | HOBt | 0.55 mmol, 75 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.65 mmol, 213 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-malonamic acid | 0.55 mmol, 150 mg | O=C1N(C=CC=C1)C1=CC=C(C=C1)NC(CC(=O)O)=O | C14H12N2O4
reactant | EDCI.HCl | 0.66 mmol, 126 mg | CCN=C=NCCCN(C)C.Cl
reactant | (2-bromo-phenyl)-piperazin-1-yl-methanone hydrochloride | 0.6 mmol, 185 mg | Cl.BrC1=C(C=CC=C1)C(=O)N1CCNCC1
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-[4-(2-bromo-benzoyl)-piperazin-1-yl]-3-oxo-N-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-propionamide | 180 mg, 21% | BrC1=C(C(=O)N2CCN(CC2)C(CC(=O)NC2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C=CC=C1 | C25H23BrN4O4
